US07074794B2
2-Methylaniline (5.00 g) was dissolved in 75% phosphoric acid (20 mL), and ethyl trifluoroacetoacetate (8.60 g) was dropwise added thereto at 105° C. The mixture was stirred at 105° C. for 5.5 hr. After allowing to cool, the reaction mixture was added to water. The precipitated solid was collected by filtration to give 2-trifluoromethyl-4-hydroxy-8-methylquinoline (1.84 g).

reactant | 2-Methylaniline | 5.00 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | ethyl trifluoroacetoacetate | 8.60 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | water | O | H2O
solvent | phosphoric acid | 20 mL | P(O)(O)(O)=O | H3O4P
product | 2-trifluoromethyl-4-hydroxy-8-methylquinoline | 1.84 g | FC(C1=NC2=C(C=CC=C2C(=C1)O)C)(F)F | C11H8F3NO
